US09193714B2
A mixture of (R)-3-(fluoromethyl)-1-((S)-1-(trityloxy)propan-2-yl)pyrrolidine (19.0 g, 47.1 mmol) and formic acid/diethyl ether (4:1, 189 mL) was stirred at room temperature for 8 h. This reaction mixture was concentrated on a rotary evaporator. The residue was dissolved in DCM, washed with sat'd aqueous K2CO3, and washed with brine. Organic layer was dried over Na2SO4, filtered, and concentrated to give the crude product that was purified by silica gel chromatography (10:7 ethyl acetate/hexanes to 10:7:2:1 ethyl acetate/hexane/methanol/triethylamine) to afford (S)-2-((R)-3-(fluoromethyl)pyrrolidin-1-yl)propan-1-ol (3.9 g) as a dark orange oil. 1H NMR (400 MHz, DMSO-d6) δ 4.38-4.32 (m, 2H), 4.22-4.20 (m, 1H), 3.49-3.44 (m, 1H), 3.21-3.16 (m, 1H), 2.65-2.61 (m, 1H), 2.58-2.53 (m, 1H), 2.52-2.47 (m, 1H), 2.45-2.35 (m, 1H), 2.34-2.30 (m, 1H), 2.29-2.24 (m, 1H), 1.83-1.75 (m, 1H), 1.38-1.30 (m, 1H), 0.98 (d, 3H).

reactant | (R)-3-(fluoromethyl)-1-((S)-1-(trityloxy)propan-2-yl)pyrrolidine | 47.1 mmol, 19.0 g | FC[C@H]1CN(CC1)[C@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C27H30FNO
solvent | formic acid diethyl ether | 189 mL | C(=O)O.C(C)OCC
product | (S)-2-((R)-3-(fluoromethyl)pyrrolidin-1-yl)propan-1-ol | 3.9 g | FC[C@H]1CN(CC1)[C@H](CO)C | C8H16FNO
